US05273975
5-((Phenylmethyl)methylamino)-5,6-dihydro-4H-imidazo(4,5,1-ij)quinoline-2(1H)-one (compound 57)
This compound was prepared by following the procedure of Example 44 part B, but substituting 1,2,3,4-tetrahydro-N3 -methyl-N3 -(phenylmethyl)quinoline-3,8-diamine for t-butyl (8-amino-1,2,3,4-tetrahydro-3-quinolyl)carbamate. The bulk of the product was converted to the hydrochloride salt, mp 145°-149° C. from methanol/ether.

reactant | t-butyl (8-amino-1,2,3,4-tetrahydro-3-quinolyl)carbamate | NC=1C=CC=C2CC(CNC12)NC(OC(C)(C)C)=O | C14H21N3O2
reactant | methanol ether | CO.CCOCC
product | 5-((Phenylmethyl)methylamino)-5,6-dihydro-4H-imidazo(4,5,1-ij)quinoline-2(1H)-one | C1(=CC=CC=C1)CN(C1CN2C3=C(C=CC=C3C1)NC2=O)C | C18H19N3O
